US03932644
A mixture of 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (4.0 g.) and 3-methylthio-5,6-dihydro-1,2,4-thiadiazine-1,1-dioxide (4.2 g.) was heated in an oil bath at 140° for 4 hours. The product was chromatographed on a column of silica gel with ethyl acetate-ethanol (3:2) as eluant and finally recrystallised from ethanol-ether to give 3-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-5,6-dihydro-1,2,4-thiadiazine-1,1-dioxide (2.2 g.) m.p. 146°-147°.

reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 4.0 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | 3-methylthio-5,6-dihydro-1,2,4-thiadiazine-1,1-dioxide | 4.2 g | CSC=1NS(CCN1)(=O)=O | C4H8N2O2S2
product | 3-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-5,6-dihydro-1,2,4-thiadiazine-1,1-dioxide | 2.2 g | CC=1N=CNC1CSCCNC=1NS(CCN1)(=O)=O | C10H17N5O2S2
